schmitt ckt - ecl compatible schmitt trigger
* Expected results: bench_ngspice_schmitt.expected.json
* Origin: benchmark/fixtures/ngspice/schmitt/circuit.sp
.width in=72

.opt list node lvlcod=2 noacct
* The original line is below
*.opt acct list node lvlcod=2

* tmax is pinned at 0.5ns: the regenerative snap off the 400ns input ramp
* is step-size limited, and unpinned ngspice trips 8.8ns early of its own
* converged answer (tmax 0.5-1ns: both engines agree to 0.01ns / 1.8e-3 V;
* espice's unpinned trip sat within 0.7ns of the converged one). The old
* golden's "5ns espice lag" was the reference's own truncation error.
* Original line: .tran 10ns 1000ns
.tran 10ns 1000ns 0 0.5ns
vin 1 0 pulse(-1.6 -1.2 10ns 400ns 400ns 100ns 10000ns)
vee 8 0 -5
rin 1 2 50
rc1 0 3 50
r1 3 5 185
r2 5 8 760
rc2 0 6 100
re 4 8 260
rth1 7 8 125
rth2 7 0 85
cload 7 0 5pf
q1 3 2 4 qstd off
q2 6 5 4 qstd
q3 0 6 7 qstd
q4 0 6 7 qstd
.model qstd npn(level=1 is=1.0e-16 bf=50 br=0.1 rb=50 rc=10 tf=0.12ns tr=5ns
+  cje=0.4pf pe=0.8 me=0.4 cjc=0.5pf pc=0.8 mc=0.333 ccs=1pf va=50)
.print tran v(1) v(3) v(5) v(6)
.plot tran v(3) v(5) v(6) v(1)
.end
